US03948944
Preparation of 4-Bromomethyl 2-Phenyl 1,3-Dithiolane
4-Hydroxymethyl 2-phenyl 1,3-dithiolane (30 g., 0.14 mole) was suspended in 150 ml of ether and cooled to 0°C. Phosphorus tribromide (15 g., 0.053 mole) were added over a 1.5 hour period and the mixture was stirred at ambient temperature with 5% aqueous NaHCO3 until neutral (ph = 7). After drying over MgSO4 the solvent was removed under vacuum to yield 38 g. (99%) of desired product.

reactant | 4-Hydroxymethyl 2-phenyl 1,3-dithiolane | 0.14 mole, 30 g | OCC1SC(SC1)C1=CC=CC=C1 | C10H12OS2
reactant | Phosphorus tribromide | 0.053 mole, 15 g | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-Bromomethyl 2-Phenyl 1,3-Dithiolane | 99% | BrCC1SC(SC1)C1=CC=CC=C1 | C10H11BrS2
